US08461176B2
Preparation of Enantiomer (R)-(+)-N-[2-(6-Bromo-2H-pyrazolo[4,3-b]pyridin-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (compound No 3.024)
4-Trifluoromethoxybenzoyl chloride (14.5 mL) was added at around 0° C. to a cold solution of (R)-2-amino-3-(6-bromo-pyrazolo[4,3-b]pyridin-2-yl)-2-methyl-propionitrile (23.4 g, 95% ee) in dry THF (600 mL) mixed with TEA (13.4 mL). The reaction mixture was stirred for around 4 hours at around 0° C. The cold reaction mixture was then filtered through a short plug of Celite® and basic alumina and solvent evaporated under reduced pressure. The resulting residue was triturated with DCM to afford a solid that was isolated by filtration to give the title compound as a white solid (28.6 g, 73.1%, 99.6% analytical purity, 99% ee). The filtrate was collected and solvent evaporated under reduced pressure. The residue was loaded on silica gel and purified by chromatography (SiO2, heptane/EA) to afford a second crop of title compound as a white solid (4.1 g, 10.5%). MS (ES): M/Z [M+H]=468. 1H NMR: (400 MHz, CHLOROFORM-d): 1.94 (s, 3H), 4.86 (d, J=14.0 Hz, 1H), 5.02 (d, J=14.0 Hz, 1H), 7.33 (d, J=8.1 Hz, 2H), 7.83-7.92 (m, 2H), 8.02 (s, 1H), 8.21 (dd, J=2.0, 0.7 Hz, 1H), 8.40 (d, J=0.7 Hz, 1H) and 8.62 (d, J=2.0 Hz, 1H). 19F NMR (376 MHz, CHLOROFORM-d): −58.1 (s, 3F).

reactant | 4-Trifluoromethoxybenzoyl chloride | 14.5 mL | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | (R)-2-amino-3-(6-bromo-pyrazolo[4,3-b]pyridin-2-yl)-2-methyl-propionitrile | 23.4 g | N[C@@](C#N)(CN1N=C2C(N=CC(=C2)Br)=C1)C | C10H10BrN5
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | (R)-(+)-N-[2-(6-Bromo-2H-pyrazolo[4,3-b]pyridin-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 28.6 g | BrC1=CC=2C(N=C1)=CN(N2)C[C@](C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O | C18H13BrF3N5O2
